US07683091B2
N-[4-({5-[(1,1′-Biphenyl-4-ylsulfonyl)amino]-1H-indol-1-yl}methyl)benzoyl]-β-alanine
The title compound was prepared from 4-[(5-nitro-1H-indol-1-yl)methyl]benzoic acid, β-alanine ethyl ester hydrochloride, and biphenyl 4-sulfonyl chloride following the procedure of Example 10: MS (ESI) m/z 554; MS (ESI) m/z 552.

reactant | 4-[(5-nitro-1H-indol-1-yl)methyl]benzoic acid | [N+](=O)([O-])C=1C=C2C=CN(C2=CC1)CC1=CC=C(C(=O)O)C=C1 | C16H12N2O4
reactant | β-alanine ethyl ester hydrochloride | Cl.C(C)OC(CCN)=O
reactant | biphenyl 4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
product | N-[4-({5-[(1,1′-Biphenyl-4-ylsulfonyl)amino]-1H-indol-1-yl}methyl)benzoyl]-β-alanine | C1(=CC=C(C=C1)S(=O)(=O)NC=1C=C2C=CN(C2=CC1)CC1=CC=C(C(=O)NCCC(=O)O)C=C1)C1=CC=CC=C1 | C31H27N3O5S
